US07259183B2
Preparation of [rac]-1H-Indole-7-carboxylic acid (4-tert-butyl-benzyl)-(3,3,3-trifluoro-2-hydroxy-propyl)-amide 75
To a solution of 30 mg (0.19 mmol) of 1H-indole-7-carboxylic acid and 60 mg of TBTU (0.19 mmol) in 6 ml DMF, were added 0.16 ml (0.93 mmol) of N,N-diisopropylethyl amine. After stirring for 5 min at rt, 85 mg (0.19 mmol) of [rac]-(4-tert-butyl-benzyl)-(3,3,3-trifluoro-2-hydroxy-propyl)-amine were added. After stirring for 4 h at rt, the reaction mixture was diluted with 60 ml water and extracted with EtOAc (2×). The combined organic phases were washed with water and brine, dried with magnesium sulfate, filtered and concentrated in vacuo. The residue was purified by column chromatography (9 g silica gel; EtOAc/heptane 1:4) to give 17 mg white solid (17%). MS (EI) 418.2 (M)+.

reactant | 1H-indole-7-carboxylic acid | 0.19 mmol, 30 mg | N1C=CC2=CC=CC(=C12)C(=O)O | C9H7NO2
reactant | TBTU | 0.19 mmol, 60 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
reactant | N,N-diisopropylethyl amine | 0.93 mmol, 0.16 ml | C(C)(C)N(C(C)C)CC | C8H19N
reactant | [rac]-(4-tert-butyl-benzyl)-(3,3,3-trifluoro-2-hydroxy-propyl)-amine | 0.19 mmol, 85 mg | C(C)(C)(C)C1=CC=C(CNCC(C(F)(F)F)O)C=C1 | C14H20F3NO
solvent | DMF | 6 ml | CN(C)C=O | C3H7NO
solvent | water | 60 ml | O | H2O
product | [rac]-1H-Indole-7-carboxylic acid (4-tert-butyl-benzyl)-(3,3,3-trifluoro-2-hydroxy-propyl)-amide | 17 mg, 17% | C(C)(C)(C)C1=CC=C(CN(C(=O)C=2C=CC=C3C=CNC23)CC(C(F)(F)F)O)C=C1 | C23H25F3N2O2
